US08466114B2
To a solution (2S,3R,4R,5S,6R)-2-[3-(4-benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-isopropyl-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (520 mg, 1.0 mmol) in methanol (5 mL) was added 10% palladium on charcoal (150 mg), 0.05 mL conc. HCl and the mixture was stirred under hydrogen balloon pressure for 18 h. The reaction mixture was filtered through a celite bed, and the celite was washed with methanol. The resulting filtrate was concentrated to a residue which was purified by preparative HPLC to furnish (2S,3R,4R,5S,6R)-2-[3-(3,4-Dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-isopropyl-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (70 mg).

reactant | (2S,3R,4R,5S,6R)-2-[3-(4-benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-isopropyl-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 1.0 mmol, 520 mg | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC=2C=C(C=CC2C(C)C)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO | C31H37NO6
reactant | HCl | 0.05 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | (2S,3R,4R,5S,6R)-2-[3-(3,4-Dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-isopropyl-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 70 mg | O1CCNC2=C1C=CC(=C2)CC=2C=C(C=CC2C(C)C)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO | C24H31NO6
